US08492582B2
Trifluoroacetic acid (7.9 mL) was added to the obtained 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid (0.79 g), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and a 30% aqueous solution of ethanol was added to the obtained residue. After adjusting the pH to 5.0 with a 4.0 mol/L aqueous solution of sodium hydroxide, the solid substance was collected by filtration to obtain 0.61 g of 4-(2-(ethylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a yellow solid.

reactant | Trifluoroacetic acid | 7.9 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 0.79 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)CC | C32H31N3O5
product | 4-(2-(ethylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 0.61 g | C(C)NC1=C(C=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C27H23N3O3
